US09034311B2
a) (S)-6-Chloro-N-(1-(5-fluoropyridin-2-yl)ethyl)pyridin-2-amine
(S)-1-(5-Fluoropyridin-2-yl)ethanamine hydrochloride (prepared as described in WO2006/123113, 0.291 g, 1.37 mmol) was added to a solution of 2,6-dichloropyridine (0.203 g, 1.38 mmol) in NN-diisopropylethylamine (1.2 mL, 6.89 mmol) and the resulting mixture was stirred and heated to reflux for two days. The solvent was evaporated under reduced pressure and the residue was purified by flash chromatography (0-10% ethyl acetate in hexanes) to yield the title compound (127 mg, 36%) as a yellow solid.

reactant | (S)-1-(5-Fluoropyridin-2-yl)ethanamine hydrochloride | 1.37 mmol, 0.291 g | Cl.FC=1C=CC(=NC1)[C@H](C)N
reactant | 2,6-dichloropyridine | 1.38 mmol, 0.203 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
product | (S)-6-Chloro-N-(1-(5-fluoropyridin-2-yl)ethyl)pyridin-2-amine | 127 mg, 36% | ClC1=CC=CC(=N1)N[C@@H](C)C1=NC=C(C=C1)F | C12H11ClFN3
